US06649611B2
(2R)-N-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-cyanoguanidine
To a solution of 1-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-N-cyano-S-methyl-isothiourea (0.045 g, 0.092 mmol) in EtOH (1 mL) was added ammonium hydroxide (0.100 mL) and the resulting solution was shaken at 60° C. overnight. The crude reaction mixture was purified directly via radial chromatography (2 mm plate) to give the title compound (0.027 g).

reactant | 1-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-N-cyano-S-methyl-isothiourea | 0.092 mmol, 0.045 g | ClC=1C=CC(=C(C1)N(C(SC)=N)C#N)OCC(=O)N1C(CN(CC1)CC1=CC=C(C=C1)F)C | C23H25ClFN5O2S
reactant | ammonium hydroxide | 0.100 mL | [OH-].[NH4+]
solvent | EtOH | 1 mL | CCO | C2H6O
product | (2R)-N-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-cyanoguanidine | 0.027 g | ClC=1C=CC(=C(C1)N(C(=N)N)C#N)OCC(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)C | C22H24ClFN6O2
